US08980887B2
N-(2-methoxyethyl)-N-(2-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 11)
According to the method of Example 14, 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(2-pyridinylmethyl)-2-methoxyethylamine were used as raw materials for synthesis, to obtain light yellow solid powder, yield 68.6%. m.p. 236-238° C., ESI-MS m/z: 484[M+H]+, 1H NMR(DMSO-d6, 400 MHz)δ: 2.57(s, 2H), 2.60(s, 1H), 3.16(s, 1H), 3.27(s, 2H), 3.40(t, 0.7H, J=4.76 Hz), 3.47(t, 0.7H, J=4.76 Hz), 3.60(t, 1.3H, J=4.76 Hz), 3.84(t, 1.3H, J=4.76 Hz), 4.56(s, 0.7H), 4.66(s, 1.3H), 4.84(s, 1.3H), 4.93(s, 0.7H), 7.43-7.50(m, 1H), 7.62-7.65(dd, 1H, J=8.40 Hz, 2.24 Hz), 7.69-7.81(m, 2H), 7.88-7.90(d, 1H, J=8.40 Hz), 7.92-7.93(d, 1H, J=2.24 Hz), 7.95(s, 1H), 8.62-8.78(m, 2H), 8.76-8.84(m, 1H).

reactant | 2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC=1C=C(C=CC1Cl)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H12Cl2N2O2
reactant | N-(2-pyridinylmethyl)-2-methoxyethylamine | N1=C(C=CC=C1)CNCCOC | C9H14N2O
product | N-(2-methoxyethyl)-N-(2-pyridinylmethyl)-2-(3,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 68.6% | Cl.COCCN(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC(=C(C=C2)Cl)Cl)=O)CC2=NC=CC=C2 | InChI=1S/C25H24Cl2N4O2.ClH/c1-17-8-10-31-22(25(29-23(31)13-17)18-6-7-20(26)21(27)14-18)15-24(32)30(11-12-33-2)16-19-5-3-4-9-28-19;/h3-10,13-14H,11-12,15-16H2,1-2H3;1H
